US06514971B1
The starting material 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline was obtained by heating a solution of 4-hydroxy-6-methoxy-7-(2-methoxyethoxy)cinnoline (7.8 g, 0.031 mol) in thionyl chloride (130 ml) containing DMF (0.8 ml) at 80° C. for 2 hours. After dilution with toluene, the mixture was evaporated to dryness. The resulting solid was filtered off, washed with ether, and then dissolved in ethyl acetate. The ethyl acetate solution was washed with saturated aqueous sodium hydrogen carbonate solution and then brine, dried (MgSO4) and the solvent evaporated. The residue was purified by flash chromatography using methylene chloride/ethyl acetate (1/9) as eluent to give 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline (6.2 g, 74%).

reactant | 4-hydroxy-6-methoxy-7-(2-methoxyethoxy)cinnoline | 0.031 mol, 7.8 g | OC1=CN=NC2=CC(=C(C=C12)OC)OCCOC | C12H14N2O4
reactant | DMF | 0.8 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 130 ml | S(=O)(Cl)Cl | Cl2OS
product | 4-chloro-6-methoxy-7-(2-methoxyethoxy)cinnoline | 6.2 g, 74% | ClC1=CN=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
